US06858651B2
17.1 g (62.95 mmol) of trans-4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexanecarboxylic acid methyl ester, dissolved in 150 ml of THF, were treated with 2.74 g (126 mmol) LiBH4. The reaction-mixture was stirred under reflux for 6 h and then 200 ml of 1N HCl were dropped to the solution under ice-cooling. The mixture was dissolved in ether and washed with water. The solvent was evaporated under reduced pressure yielding 16.2 g trans-(4-Hydroxymethyl-cyclo-hexyl)-methyl-carbamic acid tert-butyl ester.

reactant | trans-4-(tert-Butoxycarbonyl-methyl-amino)-cyclohexanecarboxylic acid methyl ester | 62.95 mmol, 17.1 g | COC(=O)[C@@H]1CC[C@H](CC1)N(C)C(=O)OC(C)(C)C | C14H25NO4
reactant | LiBH4 | 126 mmol, 2.74 g | [Li+].[BH4-]
reactant | HCl | 1N, 200 ml | Cl | ClH
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | trans-(4-Hydroxymethyl-cyclo-hexyl)-methyl-carbamic acid tert-butyl ester | 16.2 g | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)CO)=O | C13H25NO3
